US04518596
8-Benzylamino-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 118 from 8-benzylamino-2-chloro-4-morpholino-pyrimido-[5,4-d]-pyrimidine (m.p.: 139°-141° C.) and piperazine.

reactant | 8-benzylamino-2-chloro-4-morpholino-pyrimido-[5,4-d]-pyrimidine | C(C1=CC=CC=C1)NC1=NC=NC2=C1N=C(N=C2N2CCOCC2)Cl | C17H17ClN6O
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-Benzylamino-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine | C(C1=CC=CC=C1)NC1=NC=NC2=C1N=C(N=C2N2CCOCC2)N2CCNCC2 | C21H26N8O
